US07781443B2
(2R*,4S*)-4-(5-Bromopyrimidin-2-yl)amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (5.9 g) is dissolved in N,N-dimethylformamide (60 ml), then thereto is added sodium hydride(62.7%, 697 mg) at room temperature, and the mixture is stirred for 10 minutes. After adding 3,5-bis(trifluoromethyl)benzyl bromide (3.85 ml), the mixture is stirred at room temperature for 2 hours. Water and ethyl acetate is added to the reaction solution, the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is crystallized from diisopropyl ether and hexane to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-bromopyrimidin-2-yl)}amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (6.1 g). MS (m/z): 648/650 [M+H]+

reactant | (2R*,4S*)-4-(5-Bromopyrimidin-2-yl)amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 5.9 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=N1)Br)C | C17H20BrN5O3
reactant | sodium hydride | 697 mg | [H-].[Na+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 3.85 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-bromopyrimidin-2-yl)}amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 6.1 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)Br)C | C26H24BrF6N5O3
